Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman EtOH cirrhosis c/b ascites, 
SBP,
HE, and HRS, s/p Roux-en-Y gastric bypass c/b G-J stricture
requiring endoscopic dilations c/b perforation now with 
abdominal
wall EC fistula c/b abscesses status post I&D in the past from
her tube sites, presenting here after she was evicted from her
house 2 weeks ago had no access to her medications with
complaints of severe abdominal pain with worsened and now
purulent foul smelling drainage coming from her previous abscess
I&D of abdominal wall and intra-abdominal abscess on ___.
She was evaluated today by in surgery clinic and was advised to
come to emergency department to be admitted to the hospital.  
She
denies any fevers, reports chills. She does have a dry cough
which is new for her. She also reports that she is got
significant bilateral lower extremity edema as she has not had
access to her medications most notably her diuretics. She has no
chest pain shortness of breath or trouble breathing. No nausea
vomiting or diarrhea.

In the ED initial vitals:  
97.6 |94 |97/53 |18 |100% RA 

 - Exam notable for:  
Gen: Middle-aged woman ___ mildly uncomfortable secondary to
pain
Pulm: Bibasilar crackles no focal consolidation
CV: Tachycardic rate no appreciable murmurs
HEENT: Dry mucous membranes, no scleral icterus 
Abdomen: Firm abdomen multiple surgical sites well-healed, 2
punctate lesions over the left abdomen serosanguineous mildly
purulent drainage appreciated faint surrounding erythema
tenderness to palpation no crepitus or dishwater fluid
appreciated.
Extremities: 3+ pitting edema to the posterior buttocks
Skin: Hot dry 
Neuro: No gross neurologic deficits, alert and oriented, moves
all extremities no obvious facial abnormalities

 - Labs notable for:  
___ 03:00PM BLOOD WBC: 4.6 RBC: 3.12* Hgb: 11.0* Hct: 32.3*
MCV: 104* MCH: 35.3* MCHC: 34.1 RDW: 14.3 RDWSD: 54.2* Plt Ct:
65* 
___ 03:00PM BLOOD Neuts: 59.1 Lymphs: ___ Monos: 7.9 Eos:
2.6 Baso: 0.4 Im ___: 0.2 AbsNeut: 2.70 AbsLymp: 1.36 AbsMono:
0.36 AbsEos: 0.12 AbsBaso: 0.02 
___ 03:00PM BLOOD ___: 15.1* PTT: 33.9 ___: 1.4* 
___ 03:00PM BLOOD Glucose: 90 UreaN: 7 Creat: 0.6 Na: 138 
K:
4.1 Cl: 102 HCO3: 25 AnGap: 11 
___ 03:00PM BLOOD ALT: 12 AST: 36 AlkPhos: 134* TotBili:
1.6* 
___ 03:00PM BLOOD Albumin: 3.2* Calcium: 8.5 Phos: 3.5 Mg:
1.7 
 
 - Imaging notable for:  
CT ABDOMEN/PELVIS
1. Redemonstration of persistent enterocutaneous fistulous at
prior percutaneous gastrostomy tube and percutaneous jejunostomy
tube sites. No evidence of a drainable fluid collection.
2. Re-demonstration of a cirrhotic appearing liver with evidence
of portal hypertension including ascites, upper abdominal
collaterals and splenomegaly.
3. Cholelithiasis without evidence of acute cholecystitis.

CXR:
 
IMPRESSION:  
  
1. Opacification of the left lung base likely represents
atelectasis. 
2. Interval improvement in cardiomegaly, now within normal
limits. 

 - Consults:  Hepatology 

 - Patient was given:  
___ 15:17 IV Morphine Sulfate 4 mg 
___ 15:17 IVF  LR  150 mL/hr 
___ 16:15 IV CefTRIAXone 2 g 

On the floor she reports the history as above. She is anxious 
and
visibly tremulous/shaking. She denies alcohol use for >1 week.
Collateral from son that she is drinking heavily daily. She
denies HA, n/v/d, dysuria, fevers or chills.   
REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative. 
 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy (___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy (___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications 
 
Social History:
___
Family History:
Per prior discharge summary
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
24 HR Data (last updated ___ @ 1850)
    Temp: 98.4 (Tm 98.4), BP: 131/87, HR: 108, RR: 20, O2 sat:
95%, O2 delivery: Ra, Wt: 246.3 lb/111.72 kg  
GENERAL: Anxious appearing, tremulous, tearful, in NAD.
HEENT: Normocephalic, atraumatic. Pupils are equal, round, and
reactive to light and accommodation constricting from 3.5mm to
3.0 mm bilaterally. EOMI in all cardinal directions of gaze
without nystagmus. Vision is grossly intact, hearing grossly
intact. Nares patent with no nasal discharge. Oral cavity and
pharynx  are without inflammation, swelling, exudate, or 
lesions.
Teeth and gingiva in good general condition.
Neck: Neck supple, non-tender without lymphadenopathy, masses or
thyromegaly.
Cardiac: Tachycardic. Normal S1 and S2. No S3, S4 or murmurs.
Rhythm is regular. There is 2+ peripheral edema to thighs
b/l,Extremities are warm and well perfused. 
Pulmonary: Clear to auscultation without rales, rhonchi, 
wheezing
or diminished breath sounds.
Abdomen: 5x2cm wound on L abdomen with mild seropurulent
drainage. Normoactive bowel sounds.  Soft, moderately distended.
Tender to palpation diffusely, most in RUQ.  No guarding or
rebound.  No masses.
Neuro: Alert and oriented x3. Severely tremor b/l at rest and
with intention. 
Psych: The mental examination revealed the patient was oriented
to person, place, and time. The patient was able to demonstrate
good judgement and reason, without hallucinations or abnormal
behaviors during the examination. Tearful, anxious. 
Skin: Skin type III. 5x2cm wound on L upper abdomen with
seropurulent drainage, no lesions or eruptions.

DISCHARGE PHYSICAL EXAM:
======================
24 HR Data (last updated ___ @ 731)
    Temp: 98.4 (Tm 98.5), BP: 91/57 (91-107/57-74), HR: 80
(80-95), RR: 18, O2 sat: 95% (90-96), O2 delivery: Ra, Wt: 231.3
lb/104.92 kg     
GENERAL: WDWN woman in NAD.
HEENT: PERRL, constricting from 3.5mm to 3.0 mm bilaterally. 
EOMI
in all cardinal directions of gaze without nystagmus. Vision is
grossly intact, hearing grossly intact. Nares patent with no
nasal discharge. Oral cavity and pharynx  are without
inflammation, swelling, exudate, or lesions. Teeth and gingiva 
in
good general condition.
Neck: Neck supple, non-tender without lymphadenopathy, masses or
thyromegaly.
Cardiac: RRR. Normal S1 and S2. ___ systolic murmur. 
Extremities: There is 2+ peripheral edema to thighs b/l. warm 
and
well perfused. 
Pulmonary: CTAB
Abdomen: 5x2 cm wound on L abdomen with mild seropurulent
drainage. Normoactive bowel sounds.  Soft, moderately distended.
Tender to palpation diffusely, most in RUQ.  No guarding or
rebound.  No masses.
Neuro/psych: Alert and oriented x3. The patient was able to
demonstrate good judgement and reason, without hallucinations or
abnormal behaviors during the examination.
Skin: 5x2cm fistulous tract on L upper abdomen with seropurulent
drainage, no lesions, or eruptions.
 
Pertinent Results:
ADMISSION LABS:
=============
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-6.0 
LEUK-MOD*
___ 03:00PM   WBC-4.6 RBC-3.12* HGB-11.0* HCT-32.3* 
MCV-104* MCH-35.3* MCHC-34.1 RDW-14.3 RDWSD-54.2*
___ 03:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:00PM   ALBUMIN-3.2* CALCIUM-8.5 PHOSPHATE-3.5 
MAGNESIUM-1.7
___ 03:00PM   ALT(SGPT)-12 AST(SGOT)-36 ALK PHOS-134* TOT 
BILI-1.6*
___ 03:00PM   GLUCOSE-90 UREA N-7 CREAT-0.6 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-25 ANION GAP-11

DISCHARGE LABS:
=============
___ 05:31AM BLOOD WBC-6.1 RBC-3.02* Hgb-10.5* Hct-31.1* 
MCV-103* MCH-34.8* MCHC-33.8 RDW-14.4 RDWSD-54.2* Plt Ct-68*
___ 05:31AM BLOOD ___ PTT-32.8 ___
___ 05:31AM BLOOD Glucose-83 UreaN-9 Creat-0.8 Na-137 K-3.6 
Cl-93* HCO3-31 AnGap-13
___ 05:31AM BLOOD ALT-10 AST-31 AlkPhos-112* TotBili-2.0*
___ 05:31AM BLOOD Calcium-8.2* Phos-3.9 Mg-1.6
1

MICROBIO:
========
Urine and Blood cultures negative

IMAGING:
=======
CHEST (PA & LAT)Study Date of ___ 3:29 ___

Persistent mild atelectasis in the lower lungs.  No convincing 
evidence for
pneumonia.
CT ABD & PELVIS WITH CONTRASTStudy Date of ___ 5:16 ___
1. Redemonstration of persistent enterocutaneous fistulous at 
prior
percutaneous gastrostomy tube and percutaneous jejunostomy tube 
sites.  No
evidence of a drainable fluid collection.
2. Re-demonstration of a cirrhotic appearing liver with evidence 
of portal
hypertension including ascites, upper abdominal collaterals and 
splenomegaly.
3. Cholelithiasis without evidence of acute cholecystitis.
LIVER OR GALLBLADDER US (SINGLE ORGAN)Study Date of ___ 
9:19 ___

1.  Cirrhotic liver, without evidence of focal lesion.  Sequela 
of portal
hypertension including splenomegaly and small volume ascites are 
again noted. 
To and fro flow in the portal vein.
2.  No evidence of choledocholithiasis.

OTHER SELECTED RESULTS:
=====================
___ 05:27AM BLOOD Ethanol-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a PMH of decompensated 
alcoholic cirrhosis (SBP, ascites, HE), non-variceal UGIB, s/p 
RNYGB, prior J-tube, G-tube for enteral feedings, abdominal wall 
abscess and EC fistula at prior J-tube insertion site who 
presented with
abdominal pain, lower extremity edema, and 
anxiety/tremulousness. She was treated for alcohol withdrawal 
and underwent imaging which showed no active abdominal 
infection.

#Abdominal pain
#Enterocutaneous fistula
Patient presented with diffuse abdominal pain most tender over 
RUQ and additionally near wound site. Cholelithiasis on CT 
ab/pelvis without cholecystitis. Labs not consistent with 
alcoholic hepatitis. Patient empirically started on ceftriaxone 
in ED due to concern of infection of enterocutaneous fistula. CT 
abdomen with no drainable abscess and ceftriaxone was stopped. A 
RUQUS was performed due to cholelithiasis and was without 
concerning findings. She received occasional oxycodone for pain. 


# Volume Overload
# Lower extremity edema
Patient 246.3 lbs on admission up from 224.2 lbs on discharge in 
___ with lower extremity edema. She had not been taking home 
torsemide/ spironolactone in setting of eviction. She was 
resumed on home torsemide/spironolactone an diuresed well. She 
was discharged on Torsemide 60 mg, Spironolactone 50mg daily. 

#Alcohol use disorder
#Alcohol withdrawal 
Patient denies recent alcohol use though son presented to floor 
and informed nursing staff that she has been drinking 
excessively daily. Unknown true last use. On presentation she 
was tachycardic, anxious, tremulous and with CIWA score > 18 
clinically c/w diagnsosis of alcohol withdrawal. She was 
maintained on CIWA scale with Ativan which was stopped with 
resolution of signs of withdrawal. Thiamine continued. She was 
seen by social work. 

# EtOH Cirrhosis
# Coagulopathy
# Thrombocytopenia 
EtOH cirrhosis complicated by hepatic encephalopathy, SBP, and 
ascites. Followed by Dr. ___ B cirrhosis. MELD 13 
on admission No sign of hepatic encephalopathy this admission, 
she was continued on lactulose 30mL TID and rifaximin 550 BID. 
No history of varices in past last EGD ___ with portal 
hypertensive gastropathy. Small ascites this admission not 
amenable to tap. She was continued on torsemide 60mg and 
spironolactone 50 mg. No history of SBP in past.

#Nutrition 
Patient s/p Roux-en-y. Previously on tube feeds. 
- Continued Thiamine, multivitamins

CHRONIC ISSUES:
=============== 
# Acute on Chronic Macrocytic Anemia
- at baseline

# Epileptiform seizures
Continued home Keppra 1000 mg PO BID which pt not recently
taking.

# GERD
Continued home omeprazole 40 mg daily.

TRANSITIONAL ISSUES: 
====================
[] Please follow up repeat labs in one week, complete metabolic 
panel after resuming home diuretics. 
[] Continue to assess for signs of volume overload, adjust 
diuretics as needed. 
[] Please evaluate abdominal enterocutaneous fistula site for 
signs of erythema

Full Code
HCP: Mother, Father, ___ ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
2. Ciprofloxacin HCl 500 mg PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Lactulose 30 mL PO Q6H 
6. LevETIRAcetam Oral Solution 1000 mg PO BID 
7. Rifaximin 550 mg PO BID 
8. Senna 17.2 mg PO BID 
9. Thiamine 100 mg PO DAILY 
10. Torsemide 60 mg PO DAILY 
11. Omeprazole 40 mg PO DAILY 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Spironolactone 50 mg PO DAILY 

 
Discharge Medications:
1.  Sarna Lotion 1 Appl TP BID 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % apply to skin 
around fistula twice a day Refills:*0 
2.  Acetaminophen 650 mg PO BID:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0 
3.  Ciprofloxacin HCl 500 mg PO DAILY 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Escitalopram Oxalate 20 mg PO DAILY 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Lactulose 30 mL PO Q6H 
RX *lactulose 20 gram/30 mL 30 ml by mouth every six (6) hours 
Disp #*120 Package Refills:*0 
7.  LevETIRAcetam Oral Solution 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tab by mouth twice a day Disp #*60 
Tablet Refills:*0 
8.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Multi-Vitamin HP/Minerals]  1 
capsule(s) by mouth once a day Disp #*30 Capsule Refills:*0 
9.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
10.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
11.  Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.8 mg/5 mL 10 ml by mouth twice a day 
Refills:*0 
12.  Spironolactone 50 mg PO DAILY 
RX *spironolactone 50 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
13.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
14.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
15.Outpatient Lab Work
Please collect Complete metabolic panel ___
K70.30 
Please fax results to: ___, Dr. ___ 
Fax:  ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
==============
Enterocutaneous fistula
Lower extremity edema

Secondary Diagnoses
================
hypervolemia
Alcohol use disorder
Alcohol cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because had abdominal pain 
and had not taken your meds in 2 weeks.  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- In the hospital were given your medications and the extra 
fluid in your legs went down. 
- Imaging of your abdomen showed that there was no active 
infection.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___